data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_683661_1,[C:1](/[C:7](=[C:6](\[N:3]([N:2]([N:4]([H:10])[H:11])[C:5](=[O:8])[H:12])[H:9])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:7]([C:5](=[O:8])[H:12])([C:6]1([H:13])[N:2]([N:4]([H:10])[H:11])[N:3]1[H:9])[H:14])([H:15])([H:16])[H:17],71.81298250003209
MR_475496_0,[C:1]1([H:11])([H:12])[N:4]([N:7]([H:9])[H:10])[C:6]([C:3]([H:16])([H:17])[H:18])=[C:5]([C:2]([H:13])([H:14])[H:15])[O:8]1>>[C:1]1([H:11])([H:12])[C:5]([C:2]([H:13])([H:14])[H:15])(/[C:6]([C:3]([H:16])([H:17])[H:18])=[N:4]/[N:7]([H:9])[H:10])[O:8]1,58.14854249996799
MR_453946_1,[C:1]1([H:11])([H:12])[N:7]([C:3]([H:15])([H:16])[H:17])[N:8]([C:4]([H:18])([H:19])[H:20])[C:2]([H:13])([H:14])[C:9]([C:5]([H:21])([H:22])[H:23])=[C:10]1[C:6]([H:24])([H:25])[H:26]>>[C:1]([N:7]([C:3]([H:15])([H:16])[H:17])[H:13])(/[C:10]([C:6]([H:24])([H:25])[H:26])=[C:9]([C:2](=[N:8]\[C:4]([H:18])([H:19])[H:20])\[H:14])/[C:5]([H:21])([H:22])[H:23])([H:11])[H:12],71.73893750004069
MR_557050_1,[C:1]12([C:5]([H:15])([H:16])[H:17])[C:2]([C:6]([H:19])([H:20])[H:21])([C:7]([H:18])([H:22])[H:23])[C:3]([H:10])([C:4]1([H:13])[H:14])[N:8]2[N:9]([H:11])[H:12]>>[C:1]([C:2](/[C:3](=[N:8]/[N:9]([H:11])[H:12])[H:10])([C:6]([H:19])([H:20])[H:21])[C:7]([H:18])([H:22])[H:23])(=[C:4]([H:13])[H:14])[C:5]([H:15])([H:16])[H:17],36.94469000003437
MR_294981_0,[N:1]1([H:7])[C@@:2]2([N:3]([H:8])[H:9])[C@:4]1([H:10])[O:6][C:5]2([H:11])[H:12]>>[N:1]([C:2]([N:3]([H:8])[H:9])=[C:5]([H:11])[H:12])([C:4](=[O:6])[H:10])[H:7],5.419717500013519
MR_428120_0,[C:1]1(=[C:5]([H:14])[H:15])[C@:2]([C@:3](/[C:4](=[N:8]\[H:10])[H:13])([O:7][H:9])[H:12])([H:11])[O:6]1>>[C:1](/[C:4](=[N:8]\[H:10])[H:13])(=[C:5]([H:14])[H:15])[O:6]/[C:2](=[C:3](/[O:7][H:9])[H:12])[H:11],57.89942499999057
MR_251779_0,[C:1]([C:3]([N:2]([O:4][H:7])[O:5][H:8])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([O:5][H:8])[N:2]([O:4][H:7])[O:6]1)([H:9])([H:10])[H:11],43.62254500001029
MR_18299_0,[C:1]1([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:8])=[O:7])[C:2]([H:10])([H:11])[C:3]1([H:9])[H:12]>>[C:1]1([C:4]([H:13])([H:14])[H:15])=[C:5]([O:6][H:8])[O:7][C:2]([H:10])([H:11])[C:3]1([H:9])[H:12],59.7386275000197
MR_373301_1,[C:1]1([O:7][H:11])([O:8][H:12])[C:4]([C:2]([H:17])([H:18])[H:19])=[C:6]([H:16])[C:3]([N:5]([H:14])[H:15])([O:10][H:13])[O:9]1>>[C:1](/[C:4]([C:2]([H:17])([H:18])[H:19])=[C:6](\[C:3]([N:5]([H:14])[H:15])=[O:10])[H:16])([O:7][H:11])([O:8][H:12])[O:9][H:13],17.174675000011916
MR_395282_0,[C:1](\[C:2]([C:5]([O:6][H:10])([H:7])[H:12])([H:13])[H:14])(=[N:3]/[H:8])[N:4]([H:9])[H:11]>>[C:1]([C:2]([C:5](=[O:6])[H:12])([H:13])[H:14])([N:3]([H:8])[H:10])([N:4]([H:9])[H:11])[H:7],54.59124499996065
MR_176025_0,[C:1](/[N:8]=[C:3]([C:4](/[C:2]([H:16])([H:17])[H:18])=[C:6](\[O:7][H:9])[H:12])\[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[C:3]([N:5]([H:10])[H:11])=[C:4]([C:2]([H:16])([H:17])[H:18])[C:6]1([O:7][H:9])[H:12])([H:13])([H:14])[H:15],49.64654499999625
MR_424267_2,[C@:1]1([C:3]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:17])[H:18])[O:8][H:9])[C:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:7]1>>[C:1]1([C:3]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:17])[H:18])[O:8][H:9])[C:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:7]1,55.1070500000138
MR_224841_0,[C@@:1]([C:3]([H:14])([H:15])[H:16])([N:4]([H:8])[H:9])([C:5](=[O:7])[H:10])[O:6][C:2]([H:11])([H:12])[H:13]>>[C@@:1]1([C:3]([H:14])([H:15])[H:16])([N:4]([H:8])[H:9])[C@@:5]([O:6][C:2]([H:11])([H:12])[H:13])([H:10])[O:7]1,30.45445750001278
MR_451898_0,[C:1]([C:2](=[O:6])[H:9])(/[N:3]=[N:4]/[H:7])=[N:5]\[H:8]>>[C:1]1(=[N:5]/[H:8])\[C:2](/[N:3]=[N:4]/[H:7])([H:9])[O:6]1,49.09873749998823
MR_120229_1,[C:1]([C:4](=[C:5](\[C:2]([H:15])([H:16])[H:17])[N:6]([H:9])[H:10])/[N:8]=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[N:8][C:7]([C:3]([H:18])([H:19])[H:20])([H:11])[C:5]1([C:2]([H:15])([H:16])[H:17])[N:6]([H:9])[H:10])([H:12])([H:13])[H:14],50.15105500000658
MR_305139_1,[C:1]([O:5][H:7])([N:6]=[C:4]([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[H:15])([H:8])[H:9]>>[C:1](=[N:6][C:4]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[O:5][H:7])([H:8])[H:9],61.711487499996736
MR_42756_0,[C@@:1]([C:2]([H:11])([H:12])[H:13])([C:4]([O:6][H:9])=[O:7])([C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])[H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](/[O:6][H:9])[O:7][C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])[H:10],59.26611999999992
MR_327293_0,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])[C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])(/[C:7](=[N:8]/[N:6]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:4]([C:2]([H:15])([H:16])[H:17])[C:7]1([N:8]([C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])[N:6]([H:10])[H:11])[H:14],66.71140750003573
MR_495270_1,[C:1]([N:4]1[N:5]([C:2]([H:11])([H:12])[H:13])[C:6]1=[N:7][C:3]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([N:4]1[C:6](=[N:5][C:2]([H:11])([H:12])[H:13])[N:7]1[C:3]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10],31.949790000018368
